US07514448B2
Ethyl 5-(1H-pyrrolo[2,3-b]pyridin-3-yl)thiophene-2-carboxylate
(E)-3-chloro-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)acrylaldehyde (0.9 g. 4.3 mmol) was dissolved in EtOH (20 mL) and ethyl 2-mercaptoacetate (0.76 g, 6.3 mmol) and sodium ethoxide (1.0 g, 14.7 mmol) were added. The reaction mixture was heated to reflux for 90 minutes. The reaction mixture was diluted with EtOAc and the organic layer was washed with saturated sodium bicarbonate, dried over sodium sulfate, and concentrated to a solid, which was purified by column chromatography on silica (20 to 100% EtOAc/hexanes) to give the product, 890 mg, 3.3 mmol, 74% yield. 1H NMR 500 MHz (DMSO-d6) 12.19 (1H, br s), 8.32 (2H, m), 8.13 (1H, s), 7.78 (1H, d), 7.48 (1H, d), 7.23 (1H, dd), 4.31 (2H, q), 1.30 (3H, t).

reactant | (E)-3-chloro-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)acrylaldehyde | 4.3 mmol, 0.9 g | Cl/C(=C/C=O)/C1=CNC2=NC=CC=C21 | C10H7ClN2O
reactant | ethyl 2-mercaptoacetate | 6.3 mmol, 0.76 g | SCC(=O)OCC | C4H8O2S
reactant | sodium ethoxide | 14.7 mmol, 1.0 g | [O-]CC.[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 5-(1H-pyrrolo[2,3-b]pyridin-3-yl)thiophene-2-carboxylate | 74% yield | N1C=C(C=2C1=NC=CC2)C2=CC=C(S2)C(=O)OCC | C14H12N2O2S
